US06747023B1
1-[(E)-4-Chlorostyrylsulfonyl]-4-[4-(pyridin-2-yl)benzoyl]piperazine hydrochloride
In the same manner as in Example A-17, a reaction was conducted using 4-(2-pyridyl)benzoic acid hydrochloride and 1-[(E)-4-chlorostyrylsulfonyl]piperazine hydrochloride as starting materials, whereby the title compound was obtained.

reactant | 4-(2-pyridyl)benzoic acid hydrochloride | Cl.N1=C(C=CC=C1)C1=CC=C(C(=O)O)C=C1
reactant | 1-[(E)-4-chlorostyrylsulfonyl]piperazine hydrochloride | Cl.ClC1=CC=C(/C=C/S(=O)(=O)N2CCNCC2)C=C1
product | 1-[(E)-4-Chlorostyrylsulfonyl]-4-[4-(pyridin-2-yl)benzoyl]piperazine hydrochloride | Cl.ClC1=CC=C(/C=C/S(=O)(=O)N2CCN(CC2)C(C2=CC=C(C=C2)C2=NC=CC=C2)=O)C=C1 | InChI=1S/C24H22ClN3O3S.ClH/c25-22-10-4-19(5-11-22)12-18-32(30,31)28-16-14-27(15-17-28)24(29)21-8-6-20(7-9-21)23-3-1-2-13-26-23;/h1-13,18H,14-17H2;1H/b18-12+;
